US07713969B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1H-indol-3-yl)pyrrolidine-2,5-dione may be prepared by reacting 1-allyl-7-bromo-1H-indole with (COCl)2 (oxalyl chloride) and sodium methoxide in a polar aprotic solvent such as dichloromethane to yield (1-allyl-7-bromo-1H-indol-3-yl)-oxo-acetic acid methyl ester, which is subsequently reacted with 2-(1H-indol-3-yl)-acetamide and tBuOK (potassium tert-butoxide) in THF to yield 3-(1-allyl-7-bromo-1H-indol-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione. Reduction of the 3-(1-allyl-7-bromo-1H-indol-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione by Mg in refluxing methanol, as in Example 2 procedure C, yields 3-(1-allyl-7-bromo-1H-indol-3-yl)-4-(1H-indol-3-yl)-pyrrolidine-2,5-dione, which is treated with 9-BBN (9-borabicyclo[3.3.1]nonane) and Pd(PPh3)4 (tetrakis(triphenylphosphine)palladium) to yield (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1H-indol-3-yl)pyrrolidine-2,5-dione.

reactant | (±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1H-indol-3-yl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CNC3=CC=CC=C23)=O)=O | C23H19N3O2
reactant | 1-allyl-7-bromo-1H-indole | C(C=C)N1C=CC2=CC=CC(=C12)Br | C11H10BrN
reactant | (COCl)2 | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1-allyl-7-bromo-1H-indol-3-yl)-oxo-acetic acid methyl ester | COC(C(=O)C1=CN(C2=C(C=CC=C12)Br)CC=C)=O | C14H12BrNO3
